US06649600B1
5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.2.1]octane-1-carboxylic acid
A solution of 5-(6-amino-2,4-dioxo-1,3-dipropyl-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl)-bicyclo[3.2.1]octane-1-carboxylic acid ethyl ester (0.238 mmol, 0.10 g) in 20% NaOH (2.0 ml) and MeOH (10.0 ml) was stirred and refluxed 5 h. The reaction was cooled to room temperature and then concentrated to remove MeOH. The aqueous was acidified (pH 2-3) with conc. HCl and then extracted with EtOAc. The combined EtOAc extracts were washed with H2O and brine, and dried (MgSO4). Filtration and evaporation followed by reverse phase HPLC provided product (0.039 g, 42%) as a solid. MS (ES+) 389.12 (M+H, 100%)

reactant | 5-(6-amino-2,4-dioxo-1,3-dipropyl-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl)-bicyclo[3.2.1]octane-1-carboxylic acid ethyl ester | 0.238 mmol, 0.10 g | C(C)OC(=O)C12CCCC(CC1)(C2)C(NC=2C(N(C(N(C2N)CCC)=O)CCC)=O)=O | C22H34N4O5
solvent | NaOH | 2.0 ml | [OH-].[Na+]
solvent | MeOH | 10.0 ml | CO | CH4O
product | 5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.2.1]octane-1-carboxylic acid | 0.039 g, 42% | O=C1N(C(C=2NC(=NC2N1CCC)C12CCCC(CC1)(C2)C(=O)O)=O)CCC | C20H28N4O4
